US04902698
(d) 5-[5-(4-Chlorobenzenesulphonamido)pyrid-2-yl]pentanoic acid
4-Chlorobenzenesulphonyl chloride (1.09 g, 5.15 mmole) was added portionwise over 10 minutes to a solution of 5-(5-aminopyrid-2-yl)pentanoic acid (1.00 g, 5.15 mmole) in pyridine (15 ml). The resulting solution was stirred for 18 hours when the solvent was removed and the residue was dissolved in dilute sodium hydroxide solution (30 ml). This solution was extracted with ethyl acetate (4×50 ml) the extracts being discarded. The aqueous layer was acidified (pH 3) and extracted with ethyl acetate (4×100 ml). The combined ethyl acetate extracts were dried over magnesium sulphate, evaporated to dryness and the residue was recrystallised from acetonitrile to give the title compound (1.21 g) as a pale yellow solid. m.p. 145°-147° C.

reactant | 4-Chlorobenzenesulphonyl chloride | 5.15 mmole, 1.09 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 5-(5-aminopyrid-2-yl)pentanoic acid | 5.15 mmole, 1.00 g | NC=1C=CC(=NC1)CCCCC(=O)O | C10H14N2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-[5-(4-Chlorobenzenesulphonamido)pyrid-2-yl]pentanoic acid | 1.21 g | ClC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)CCCCC(=O)O | C16H17ClN2O4S
